US08048884B2
Add methyl-(2-oxo-ethyl)-carbamic acid t-butyl ester (27.69 mmoles; 4.80 g) and 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine (25.17 mmoles; 5.00 g) to 1,2 dichloroethane (50.0 mL) on ice. Add sodium triacetoxyborohydride (32.7 mmoles; 6.93 g) in 3 portions. Stir the reaction mixture at room temperature overnight. Quench the reaction with water, separate the organic layer and concentrate. Wash in hexanes and filter to provide [2-(3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl)-ethyl]-methyl-carbamic acid t-butyl ester as a clear oil.

reactant | methyl-(2-oxo-ethyl)-carbamic acid t-butyl ester | 27.69 mmoles, 4.80 g | C(C)(C)(C)OC(N(CC=O)C)=O | C8H15NO3
reactant | 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine | 25.17 mmoles, 5.00 g | ClC=1C(=NC=CN1)N1CCNCC1 | C8H11ClN4
reactant | sodium triacetoxyborohydride | 32.7 mmoles, 6.93 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2 dichloroethane | 50.0 mL | ClCCCl | C2H4Cl2
product | [2-(3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl)-ethyl]-methyl-carbamic acid t-butyl ester | C(C)(C)(C)OC(N(C)CCN1CCN(CC1)C1=NC=CN=C1Cl)=O | C16H26ClN5O2
